US05073644
A mixture of 578.6 g 3,4-dichlorobutyl triethoxysilane (2.0 moles) and 750 ml toluene is combined at reflux temperature within 2 hours with 92.0 g molten sodium in a heatable (approximately 130° C.) dropping funnel. In order to complete the reaction, the mixture is subsequently agitated for 30 minutes more at 120° C. After the workup already described in b), 417.3 g crude product=95.4% of theory are obtained which yield 366.0 g 3-butenyl triethoxysilane as a main fraction in the subsequent vacuum fractionation, corresponding to 83.7% of theory.

reactant | 3,4-dichlorobutyl triethoxysilane | 2.0 moles, 578.6 g | ClC(CC[Si](OCC)(OCC)OCC)CCl | C10H22Cl2O3Si
reactant | sodium | 92.0 g | [Na] | Na
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | 3-butenyl triethoxysilane | yield 366.0 g | C(CC=C)[Si](OCC)(OCC)OCC | C10H22O3Si
